### PR TITLE
[Merged by Bors] - feat(Analysis/Complex/Exponential): add new bounds on exponential

### PR DESCRIPTION
**Pull request by b-mehta**
We add new upper bounds on Real.exp in terms of 2x/(2+x), and use these to move some bounds on log higher in mathlib.
We also add a lemma for the common bound (1+1/n)^n <= e, though this is a special-case of `one_sub_div_pow_le_exp_neg` (immediately before), but is added for convenience and discoverability, as this is a "well-known" bound.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/Exponential.lean [hunk 1]
```diff
@@ -663,12 +665,35 @@ theorem one_sub_div_pow_le_exp_neg {n : ℕ} {t : ℝ} (ht' : t ≤ n) : (1 - t
...
 lemma le_inv_mul_exp (x : ℝ) {c : ℝ} (hc : 0 < c) : x ≤ c⁻¹ * exp (c * x) := by
   rw [le_inv_mul_iff₀ hc]
   calc c * x
   _ ≤ c * x + 1 := le_add_of_nonneg_right zero_le_one
   _ ≤ _ := Real.add_one_le_exp (c * x)
 
+lemma exp_lt_two_add_div_two_sub {x : ℝ} (hx : 0 < x) (hx' : x < 2) :
+    exp x < (2 + x) / (2 - x) := by calc
+  _ = exp (x / 2) ^ 2 := by grind [Real.exp_nat_mul (x / 2) 2]
+  _ ≤ _ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Exponential.lean:682]: I realize why you're not filling in the RHS here, because it's ugly. Are you not worried about maintainability? e.g., something breaks here and then the user has to go look up what to write down because Lean can't infer the goal?

**Review by j-loreaux — COMMENTED** [review]
I have one concern, but if you're not worried about it you can merge anyway. If you are, I guess you can add the goal explicitly.

bors d+

File: Mathlib/Analysis/Complex/Exponential.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Analysis/Complex/Exponential.lean:682]: In general I am worried, but in this case I'm a lot less worried, since this can't break so badly - `grw` and `apply` are doing rigid things, and the `x :=` and `n :=` are making it explicit exactly what we're grewriting with

**Comment by b-mehta** [comment]
bors merge
